US09062032B2
By a method similar to Preparation Example 37, 197 mg of methyl 4-(2-{4-[({2-[(3-{[(2-hydroxyethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate was reacted with 0.10 mL of thionyl chloride, and then the resultant was reacted with 325 mg of ethyl isonipecotate, thereby obtaining 206 mg of ethyl 1-(2-{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl](pentan-3-yl)amino}ethyl)piperidine-4-carboxylate.

reactant | methyl 4-(2-{4-[({2-[(3-{[(2-hydroxyethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 197 mg | OCCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C40H47N3O5S
reactant | thionyl chloride | 0.10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl isonipecotate | 325 mg | N1CCC(C(=O)OCC)CC1 | C8H15NO2
product | ethyl 1-(2-{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl](pentan-3-yl)amino}ethyl)piperidine-4-carboxylate | 206 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(CN(CCN1CCC(CC1)C(=O)OCC)C(CC)CC)C=CC2 | C48H60N4O6S
